US07220740B2
3.1. 2,6-Dichloro-7-nitrobenzothiazole.
4.76 g (23 mmol) of 2,6-dichlorobenzothiazole, in solution in 10 ml of concentrated sulphuric acid, are introduced into a 100 ml round-bottomed flask. The mixture is cooled to 17° C. in order to add a solution of 1.62 g (26 mmol) of nitric acid in 10 ml of sulphuric acid and then the temperature is allowed to rise to ambient temperature.

reactant | 2,6-dichlorobenzothiazole | 23 mmol, 4.76 g | ClC=1SC2=C(N1)C=CC(=C2)Cl | C7H3Cl2NS
reactant | nitric acid | 26 mmol, 1.62 g | [N+](=O)(O)[O-] | HNO3
solvent | sulphuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulphuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
product | 2,6-Dichloro-7-nitrobenzothiazole | ClC=1SC2=C(N1)C=CC(=C2[N+](=O)[O-])Cl | C7H2Cl2N2O2S
